US06093732
N-(4-Chlorobenzyl)-4-hydroxy-6-(2-thienyl)-3-quinolinecarboxamide
A deoxygenated mixture of 0.75 g of N-(4-chlorobenzyl)-4-hydroxy-6-iodo-3-quinolinecarboxamide from Example No. 40, 0.75 g of 2-(tributylstannyl)thiophene, 60 mg of bis(triphenylphosphine)palladium(II)dichloride, 7.5 mL of dioxane and 2.5 mL of DMPU is stirred for 2 h at 100° C. The cooled mixture is diluted with 20 mL of hexanes and 60 mL of distilled water. The mixture is stirred for 5 minutes and then filtered. The solid is washed with two 50 mL portions of distilled water and then with two 25 mL portions of methyl t-butyl ether. It is then dissolved in 20 mL of refluxing acetic acid, treated with 2 g of activated carbon and filtered through celite. The volume of the filtrate is reduced to 10 mL and the hot solution diluted with 10 mL of distilled water. Upon cooling, 0.3 g of the title compound precipitates and is collected by filtration.

reactant | N-(4-chlorobenzyl)-4-hydroxy-6-iodo-3-quinolinecarboxamide | 0.75 g | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)I)C=C1 | C17H12ClIN2O2
reactant | 2-(tributylstannyl)thiophene | 0.75 g | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC
reactant | dioxane | 7.5 mL | O1CCOCC1 | C4H8O2
reactant | DMPU | 2.5 mL | CN1CCCN(C1=O)C | C6H12N2O
solvent | water | 60 mL | O | H2O
catalyst | bis(triphenylphosphine)palladium(II)dichloride | 60 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | N-(4-Chlorobenzyl)-4-hydroxy-6-(2-thienyl)-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)C=2SC=CC2)C=C1 | C21H15ClN2O2S
